US08084620B2
Step 5 A solution of 5-bromo-2-((4-bromobutanamido)methyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide (80 mg, 0.170 mmol) in DMF (1 mL) was treated with NaH (60% in mineral oil, pre-washed with hexane, 34 mg, 0.849 mmol). The mixture was stirred at rt for 30 min, the was diluted with water and extracted three times with DCM. The combined organic phases were dried and concentrated, and the residue was purified by column chromatography (eluting with 5% aqueous ammonium hydroxide-methanol-DCM) to provide 5-bromo-2-((2-oxopyrrolidin-1-yl)methyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide as a light yellow solid, used without further purification (40 mg, 60%). Mass spectrum m/z 390, 392 (M+H)+.

reactant | 5-bromo-2-((4-bromobutanamido)methyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | 0.170 mmol, 80 mg | BrC1=C2C=3CCC(CC3NC2=C(C=C1)C(=O)N)CNC(CCCBr)=O | C18H21Br2N3O2
reactant | NaH | 0.849 mmol, 34 mg | [H-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-bromo-2-((2-oxopyrrolidin-1-yl)methyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxamide | BrC1=C2C=3CCC(CC3NC2=C(C=C1)C(=O)N)CN1C(CCC1)=O | C18H20BrN3O2
